US06166006
In 1,2-dichloroethane (50 ml) were suspended p-nitrobenzaldehyde (5 g), sarcosine methyl ester hydrochloride (4.6 g) and triethylamine (4.6 ml), and to the mixture was added, under ice-cooling, triacetoxy sodium boron hydride (9.8 g). Under nitrogen atmosphere, the mixture was stirred at room temperature for 4 hours. To the mixture was added water, and the mixture was concentrated, neutralized with sodium hydroxide solution and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried with anhydrous magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column (ethyl acetate/hexane) to give N-(4-nitrobenzyl)sarcosine methyl ester (6.3 g) as colorless oil.

reactant | p-nitrobenzaldehyde | 5 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | sarcosine methyl ester hydrochloride | 4.6 g | Cl.COC(CNC)=O
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | N-(4-nitrobenzyl)sarcosine methyl ester | 6.3 g | COC(CN(C)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H14N2O4
